US08426447B2
A mixture of (S)-3-chloro-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine (0.967 g, 2.64 mmol), trans-(3,3-dimethylbutenyl)boronic acid pinacol ester (1.389 g, 6.61 mmol), AmPhos (0.094 g, 0.132 mmol), and potassium phosphate hydrate (1.218 g, 5.29 mmol) in 10 mL dioxane/water (1:1) was heated in the microwave at 130° C. for 1 h. After cooling to rt, the reaction was concentrated and the residue purified by silica gel chromatography using 0-5% MeOH/DCM to give (S,E)-3-(3,3-dimethylbut-1-enyl)-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine. Found MS: MH+=414.

reactant | (S)-3-chloro-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine | 2.64 mmol, 0.967 g | ClC1=CC2=C(C=N1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=NC1 | C18H12ClN5O2
reactant | trans-(3,3-dimethylbutenyl)boronic acid pinacol ester | 6.61 mmol, 1.389 g | CC(/C=C/B1OC(C)(C)C(C)(C)O1)(C)C | C12H23BO2
reactant | AmPhos | 0.132 mmol, 0.094 g | CC(CC1=CC=CC=C1)N.OP(=O)(O)O
reactant | potassium phosphate hydrate | 5.29 mmol, 1.218 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane water | 10 mL | O1CCOCC1.O
product | (S,E)-3-(3,3-dimethylbut-1-enyl)-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine | CC(/C=C/C1=CC2=C(C=N1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=NC1)(C)C | C24H23N5O2
